US07932272B2
To a solution of 3-(4-methoxyphenoxy)benzaldehyde (5.0 g, 21.9 mmol) in methanol (35 mL) was added a solution of sodium borohydride (0.86 g, 22.8 mmol) in an aqueous solution of 2N sodium hydroxide (2.5 mL), and the mixture was stirred at room temperature for 30 minutes. Water was added to the reaction mixture, which was neutralized with acetic acid, then, extracted with ethyl acetate, washed with brine, then, dried over anhydrous magnesium sulfate, and the solvent was evaporated to obtain (3-(4-methoxy-phenoxy)-phenyl)-metanol (5.3 g, quantitatively) as a colorless oil.

reactant | 3-(4-methoxyphenoxy)benzaldehyde | 21.9 mmol, 5.0 g | COC1=CC=C(OC=2C=C(C=O)C=CC2)C=C1 | C14H12O3
reactant | sodium borohydride | 22.8 mmol, 0.86 g | [BH4-].[Na+]
reactant | sodium hydroxide | 2N, 2.5 mL | [OH-].[Na+]
reactant | Water | O | H2O
solvent | methanol | 35 mL | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (3-(4-methoxy-phenoxy)-phenyl)-metanol | COC1=CC=C(OC=2C=C(C=CC2)CO)C=C1 | C14H14O3
